US08877683B2
Step 1: Preparation of 3-(2-Trifluoromethyl-benzylsulfanylmethyl)-pyridine-2-carboxylic acid methyl ester
To a solution of thioacetic acid S-(2-trifluoromethyl-benzyl)ester (10.2 g, 37.5 mmol) in methanol (130 ml) potassium carbonate (5.18 g, 37.5 mmol) was added at room temperature and it was stirred for 30 min. 3-Bromomethyl-pyridine-2-carboxylic acid methyl ester (4.40 g, 18.7 mmol) was added and after refluxing for 150 min the solution was diluted with water, extracted with ethylacetate, the organic phase dried with sodium sulfate and concentrated. Chromatography over silica with ethylacetate/cyclohexane gave 7.82 g colorless crystals (18.7 mmol).

reactant | thioacetic acid S-(2-trifluoromethyl-benzyl)ester | 37.5 mmol, 10.2 g | FC(C1=C(CSC(C)=O)C=CC=C1)(F)F | C10H9F3OS
reactant | methanol | 37.5 mmol, 130 ml, 5.18 g | CO | CH4O
reactant | 3-Bromomethyl-pyridine-2-carboxylic acid methyl ester | 18.7 mmol, 4.40 g | COC(=O)C1=NC=CC=C1CBr | C8H8BrNO2
reactant | ethylacetate cyclohexane | C(C)OC(C)=O.C1CCCCC1
solvent | water | O | H2O
product | 3-(2-Trifluoromethyl-benzylsulfanylmethyl)-pyridine-2-carboxylic acid methyl ester | 18.7 mmol, 7.82 g | COC(=O)C1=NC=CC=C1CSCC1=C(C=CC=C1)C(F)(F)F | C16H14F3NO2S
